US09260425B2
To a solution containing 1-acetyl-3-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one (0.295 g, 0.722 mmol), 3-pyridineboronic acd pinacol ester (0.444 g, 2.17 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (0.0472 g, 0.0578 mmol) in Acetonitrile (5.47 mL, 105 mmol) was added 1.00 M of Potassium acetate in Water (1.44 mL) and 1.00 M of Sodium carbonate in Water (1.44 mL). The reaction was stirred at 100° C. for 3 h. The reaction is filtered thru celite. The crude product was diluted in EtOAc then washed with water and sat. NaCl. The organic layer was dried Na2SO4, filtered, and concentrated to give 1-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one. ESI MS m/z=365.2 (M+1).

reactant | 1-acetyl-3-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one | 0.722 mmol, 0.295 g | C(C)(=O)N1C(N(CC1)C1=NN(C2=CN=C(C=C21)Br)C2OCCCC2)=O | C16H18BrN5O3
reactant | 3-pyridineboronic | 2.17 mmol, 0.444 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Acetonitrile | 105 mmol, 5.47 mL | C(C)#N | C2H3N
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
solvent | Water | 1.44 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | 1.44 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.0578 mmol, 0.0472 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2N2C(NCC2)=O)C2OCCCC2 | C19H20N6O2
